US06350749B1
A solution of 5-(5-fluoro-2-methylphenyl)cyclohexane-1,3-dione (3.0 g) and ammonium acetate (3.1 g) in ethanol (50 ml) was refluxed for 14 hours. Under reduced pressure, the solvent was evaporated, and the residue was dissolved in ethyl acetate. The mixture was washed with water and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give 1-amino-5-(5-fluoro-2-methylphenyl)cyclohexen-3-one, which was dissolved in ethanol (70 ml) and toluene (120 ml). To the mixture were added 3-oxobutylaldehydedimethylacetal (4.1 g) and powdery potassium hydroxide (0.57 g), and the mixture was refluxed. To the mixture was added powdery potassium hydroxide (0.14 g) 30 minutes later; powdery potassium hydroxide (0.14 g) and 3-oxobutylaldehydedimethylacetal (0.33 g) 1 hour later; and powdery potassium hydroxide (0.14 g) 1.5 hours later. Then, the mixture was stirred at the same temperature for 2 hours and cooled. Under reduced pressure, the solvent was evaporated, and to the residue was added ethyl acetate. The organic layer was washed with water and saturated brine, and dried with magnesium sulfate. Under reduced pressure, ethyl acetate was evaporated, and the residue was subjected to silica gel column (ethyl acetate-hexane) to give crystals, which were recrystallized from ethyl acetate-hexane to give 7-(5-fluoro-2-methylphenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one (1.5 g).

reactant | 5-(5-fluoro-2-methylphenyl)cyclohexane-1,3-dione | 3.0 g | FC=1C=CC(=C(C1)C1CC(CC(C1)=O)=O)C | C13H13FO2
reactant | ammonium acetate | 3.1 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-amino-5-(5-fluoro-2-methylphenyl)cyclohexen-3-one | NC1=CC(CC(C1)C1=C(C=CC(=C1)F)C)=O | C13H14FNO
